US07902252B2
2.86. Synthesis of 4-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (66)
The title compound was synthesized from methyl 4-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (116 mg, 0.40 mmol) and lithium hydroxide (167 mg, 4.00 mmol in 1 mL water), according to General Procedure 7. A 1:1 mixture of methanol (MeOH) and THF (2 mL) was used. The resulting product was purified by chromatography, eluting with heptane-EtOAc, gradient 0 to 50% EtOAc to afford the title compound. 74, mg. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.09-2.18 (m, 1H), 2.53-2.65 (m, 1H), 2.65-2.73 (m, 2H), 2.74-2.85 (m, 2H), 3.28-3.37 (m, 1H), 3.81 (s, 3H), 6.56 (d, J=1.46 Hz, 1H), 6.73-6.83 (m, 3H), 7.22 (t, J=7.81 Hz, 1H), 8.85 (br. s, 1H). LCMS m/e 272 (M+H). Purity 99% (HPLC).

reactant | methyl 4-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.40 mmol, 116 mg | COC=1C=C(CC2CCC=3NC(=CC32)C(=O)OC)C=CC1 | C17H19NO3
reactant | lithium hydroxide | 4.00 mmol, 1 mL, 167 mg | [OH-].[Li+]
reactant | methanol | CO | CH4O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 4-(3-methoxybenzyl)-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | COC=1C=C(CC2CCC=3NC(=CC32)C(=O)O)C=CC1 | C16H17NO3
